US05166347
Preparation of N-cyano-N'-(2-hydroxy-1-methyl-2-phenylethyl)-2-pyridinecarboximidamide (method i)
Methyl N-cyano-2-pyridinecarboximidate (0.24 g, 1.5 mmol) was dissolved in methanol (5 ml), DL-phenylpropanolamine hydrochloride (0.31 g. 1.7 mmol, supplied by Tokyo Chemical Industry Co., Ltd.) and triethylamine (0.17 g, 1.7 mmol) were added, and the resulting mixture was stirred at room temperature for 5 solution was concentrated under reduced pressure, and the residue thus obtained was extracted with ethyl acetate (30 ml×3). The ethyl acetate layer was washed with water (100 ml), dried over anhydrous sodium sulfate and concentrated under reduced pressure. The concentrated residue thus obtained was crystallized from diethyl ether to give the title compound (0.23 g, 0.8 mmol, yield: 54%) as colorless crystals.

reactant | Methyl N-cyano-2-pyridinecarboximidate | 1.5 mmol, 0.24 g | C(#N)N=C(OC)C1=NC=CC=C1 | C8H7N3O
reactant | DL-phenylpropanolamine hydrochloride | 1.7 mmol, 0.31 g | CC(C(C1=CC=CC=C1)O)N.Cl
reactant | triethylamine | 1.7 mmol, 0.17 g | C(C)N(CC)CC | C6H15N
solvent | methanol | 5 ml | CO | CH4O
product | N-cyano-N'-(2-hydroxy-1-methyl-2-phenylethyl)-2-pyridinecarboximidamide | 0.8 mmol, 0.23 g, yield: 54% | C(#N)NC(=NC(C(C1=CC=CC=C1)O)C)C1=NC=CC=C1 | C16H16N4O
